US05217643
8.0 g of 4-n-pentylcyclohexylmethanol was dissolved in a mixture solvent of 8 ml of pyridine and 8 ml of toluene. To the solution, 6.0 g of methanesulfonyl chloride was added dropwise below 10° C., followed by stirring overnight at room temperature. After the reaction, the reaction mixture was poured into cold water and subjected to extraction with toluene, followed by washing successively with 5%-hydrochloric acid aqueous solution and water and drying with anhydrous magnesium sulfate. The resultant organic layer was subjected to filtration, followed by distilling-off of the solvent to obtain 11.3 g of 4-n-pentylcyclohexylmethyl methanesulfonate.

reactant | 4-n-pentylcyclohexylmethanol | 8.0 g | C(CCCC)C1CCC(CC1)CO | C12H24O
reactant | methanesulfonyl chloride | 6.0 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | 4-n-pentylcyclohexylmethyl methanesulfonate | 11.3 g | CS(=O)(=O)OCC1CCC(CC1)CCCCC | C13H26O3S
